US04722929
8-(2,4-Dimethoxy-phenyl)-1H-purin-6-one
One-half gram of 8-(2,4-dimethoxy-phenyl)-6-chloro-purine is refluxed for seven hours in 30 ml of 2N sodium hydroxide solution. The mixture is acidified with glacial acetic acid, and the precipitate obtained is recrystallized from methanol.

reactant | 8-(2,4-dimethoxy-phenyl)-6-chloro-purine | COC1=C(C=CC(=C1)OC)C1=NC2=NC=NC(=C2N1)Cl | C13H11ClN4O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
product | 8-(2,4-Dimethoxy-phenyl)-1H-purin-6-one | COC1=C(C=CC(=C1)OC)C1=NC=2N=CNC(C2N1)=O | C13H12N4O3
